US09428498B2
tert-Butyl 4-[4-(methoxycarbonyl)-1,3-thiazol-2-yl]piperazine-1-carboxylate
Methyl 2-chlorothiazole-4-carboxylate (500 mg, 2.82 mmol), N-Boc-piperazine (655 mg, 3.52 mmol) and DIPEA (736 uL, 4.22 mmol) were dissolved in DMA (10 mL) and the reaction mixture was heated in a microwave reactor at 150° C. for 45 min. The reaction mixture was partitioned between EtOAc (40 mL) and water (40 mL) and the organic fraction was washed with water (40 mL) and brine (40 mL), dried (MgSO4) and concentrated in vacuo. The residue was purified by column chromatography to give the title compound as a white solid (324 mg, 35.1%). LCMS (ES+): 350.1 [MNa]+. HPLC: Rt 6.04 min, 100% purity.

reactant | Methyl 2-chlorothiazole-4-carboxylate | 2.82 mmol, 500 mg | ClC=1SC=C(N1)C(=O)OC | C5H4ClNO2S
reactant | N-Boc-piperazine | 3.52 mmol, 655 mg | C(=O)(OC(C)(C)C)N1CCNCC1 | C9H18N2O2
reactant | DIPEA | 4.22 mmol, 736 uL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMA | 10 mL | CC(=O)N(C)C | C4H9NO
product | tert-Butyl 4-[4-(methoxycarbonyl)-1,3-thiazol-2-yl]piperazine-1-carboxylate | 324 mg, 35.1% | COC(=O)C=1N=C(SC1)N1CCN(CC1)C(=O)OC(C)(C)C | C14H21N3O4S
